US05246958
To a 10 ml tetrahydrofuran solution containing 1.00 g (5.1 mmole) of 2-[4-(1-imidazolyl)-phenyl]propionitrile was added a 10 ml tetrahydrofuran solution containing 0.69 g (6.2 mmole) of potassium tert-butoxide at 0 C. After stirring for 0.5 hour, a 5 ml tetrahydrofuran solution containing 0.45 g (6.2 mmole) of methyl isothiocyanate was added to the mixture and the mixture was stirred at room temperature for 2 hours. Water was added to the mixture and the mixture was extracted with 20 ml of ethyl acetate, dried and condensed under reduced pressure, and then purified by silica gel chromatography and condensed. The resulting condensate was suspended in 30 ml of toluene and the suspension was refluxed under heating for 0.5 hour and a solid was collected by filtration to obtain 0.75 g (yield: 54 %) of N-methyl-2-[4-(1-imidazolyl)-phenyl]-2cyanothiopropionamide as a crystalline solid.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 2-[4-(1-imidazolyl)-phenyl]propionitrile | 5.1 mmole, 1.00 g | N1(C=NC=C1)C1=CC=C(C=C1)C(C#N)C | C12H11N3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | potassium tert-butoxide | 6.2 mmole, 0.69 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | methyl isothiocyanate | 6.2 mmole, 0.45 g | CN=C=S | C2H3NS
solvent | Water | O | H2O
product | N-methyl-2-[4-(1-imidazolyl)-phenyl]-2cyanothiopropionamide | 0.75 g, yield: 54 % | CNC(C(C)(C#N)C1=CC=C(C=C1)N1C=NC=C1)=S | C14H14N4S
